US07250522B2
To a mixture of methyl 3-formyl-4-hydroxybenzoate (4.0 g, 22.2 mmol) and tetrahydrofuran (100 mL), 4-ethylphenyllithium [which had been prepared by stirring t-butyllithium (66 mmol) into a mixture of 1-bromo-4-ethylbenzene (12.3 g, 66 mmol) and tetrahydrofuran (200 mL) at −70° C. for 30 minutes] was added at −70° C. and stirred for 1 hour. After addition of saturated aqueous ammonium chloride, the reaction mixture was extracted with ethyl acetate, and the organic phase was washed with saturated aqueous sodium chloride and then dried over anhydrous magnesium sulfate. After the solvent was distilled off under reduced pressure, the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=65:35–50:50) to give methyl 3-[(4-ethylphenyl)hydroxymethyl]benzoate (2.92 g, 46%) as a light-yellow gum.

reactant | methyl 3-formyl-4-hydroxybenzoate | 22.2 mmol, 4.0 g | C(=O)C=1C=C(C(=O)OC)C=CC1O | C9H8O4
reactant | 4-ethylphenyllithium | C(C)C1=CC=C(C=C1)[Li]
reactant | t-butyllithium | 66 mmol | C(C)(C)(C)[Li]
reactant | 1-bromo-4-ethylbenzene | 66 mmol, 12.3 g | BrC1=CC=C(C=C1)CC | C8H9Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | methyl 3-[(4-ethylphenyl)hydroxymethyl]benzoate | 2.92 g, 46% | C(C)C1=CC=C(C=C1)C(C=1C=C(C(=O)OC)C=CC1)O | C17H18O3
